US06509328B1
4-(3-Nitro-phenyl)-8-phenylethynyl-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from {2-[3-(3-nitro-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic acid tert.-butyl ester (Example K31) (970 mg, 1.94 mmol) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (631 mg).

reactant | {2-[3-(3-nitro-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic acid tert.-butyl ester | 1.94 mmol, 970 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)NC(CC(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C28H25N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Nitro-phenyl)-8-phenylethynyl-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 631 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C#CC2=CC=CC=C2 | C23H15N3O3
